US06858638B2
2-Methylsulfonyl-N-[3-(1H-pyrrol-2-yl)-1H-indazol-5-yl]benzenesulfonamide can be obtained as described in Example 59 from 0.5 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 365 mg of 1-(tert-butyloxycarbonyl)pyrrole-2-boronic acid, 20 ml of dimethylformamide, 1.87 ml of saturated aqueous sodium hydrogencarbonate solution and 24.5 mg of tetrakis(triphenylphosphine)palladium[0]. 108 mg of 2-methylsulfonyl-N-[3-(1H-pyrrol-2-yl)-1H-indazol-5-yl]benzenesulfonamide are thus obtained in the form of a pale green solid melting at 255° C. (analysis C18H16N4O4S2 % calculated: C, 51.91; H, 3.87; N, 13.45; O, 15.37; S, 15.40. % found C, 51.63; H, 3.87; N, 13.27; S, 15.21).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 0.5 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | 1-(tert-butyloxycarbonyl)pyrrole-2-boronic acid | 365 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium hydrogencarbonate | 1.87 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-methylsulfonyl-N-[3-(1H-pyrrol-2-yl)-1H-indazol-5-yl]benzenesulfonamide | 108 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C=1NC=CC1 | C18H16N4O4S2
